US07816557B2
Step C. 3-{4-[1-(6-Chloro-pyridin-3-yloxy)-4,4-dimethyl-pentyl]-benzoylamino}-propionic acid methyl ester
3-[4-(1-Hydroxy-4,4-dimethyl-pentyl)-benzoylamino]-propionic acid methyl ester (546 mg, 1.7 mmol) and 6-chloro-pyridin-3-ol (270 mg, 2.09 mmol) are combined in anhydrous toluene (10 mL), degassed, filled with nitrogen for 3 times, and cooled in an ice bath. Tributylphosphine (TBP) (630 uL, 2.55 mmol) is added to the reaction mixture under nitrogen at 0° C., followed by addition of 1,1′-(azodicarbonyl)-dipiperidine (ADDP) (643 mg, 2.55 mmol). The reaction mixture is allowed to warm to room temperature and stirred over night, the mixture is loaded on silica gel column. Chromatography gave the title compound (722 mg, 1.67 mmol).

reactant | 3-[4-(1-Hydroxy-4,4-dimethyl-pentyl)-benzoylamino]-propionic acid methyl ester | 1.7 mmol, 546 mg | COC(CCNC(C1=CC=C(C=C1)C(CCC(C)(C)C)O)=O)=O | C18H27NO4
reactant | 6-chloro-pyridin-3-ol | 2.09 mmol, 270 mg | ClC1=CC=C(C=N1)O | C5H4ClNO
reactant | Tributylphosphine | 2.55 mmol, 630 uL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 2.55 mmol, 643 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{4-[1-(6-Chloro-pyridin-3-yloxy)-4,4-dimethyl-pentyl]-benzoylamino}-propionic acid methyl ester | 1.67 mmol, 722 mg | COC(CCNC(C1=CC=C(C=C1)C(CCC(C)(C)C)OC=1C=NC(=CC1)Cl)=O)=O | C23H29ClN2O4
